US08791102B2
A mixture of 5-chloro-2-nitroaniline (345 mg, 2.00 mmol), 4-fluorophenol (224 mg, 2 mmol), potassium carbonate (549 mg, 4 mmol) and DMF (8 mL) was stirred at 120° C. for 1 day. The mixture was cooled and then water (10 mL) was added. The mixture was extracted with ethyl acetate (4×2 mL). The combined extract was dried over magnesium sulfate and concentrated. Product was purified from the residue by silica gel column chromatography (eluted with a 6:1 mixture of hexane/EtOAc) to give 5-(4-fluorophenoxy)-2-nitroaniline (510 mg, quant) as a yellow powder.

reactant | 5-chloro-2-nitroaniline | 2.00 mmol, 345 mg | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-fluorophenol | 2 mmol, 224 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 4 mmol, 549 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 5-(4-fluorophenoxy)-2-nitroaniline | 510 mg | FC1=CC=C(OC=2C=CC(=C(N)C2)[N+](=O)[O-])C=C1 | C12H9FN2O3
